US04060636
To a suspension of 3-(3-carbomethoxythioureido)-4-aminobenzophenone (1.2 g.; 0.0036 mole) in acetone (15 ml.) is added acetyl isothiocyanate (0.37 g.; 0.0036 mole). The reaction mixture is heated to reflux and then allowed to stand at room temperature for 18 hours. The product is collected by filtration, washed successively to afford 0.85 g. (54% yield) of 3-(3-carbomethoxythioureido)-4-(3-acetylthioureido)benzophenone, m.p. 210° C., dec.

reactant | 3-(3-carbomethoxythioureido)-4-aminobenzophenone | 0.0036 mole, 1.2 g | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N)=S | C16H15N3O3S
reactant | acetyl isothiocyanate | 0.0036 mole, 0.37 g | C(C)(=O)N=C=S | C3H3NOS
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3-(3-carbomethoxythioureido)-4-(3-acetylthioureido)benzophenone | 54% yield | C(=O)(OC)NC(NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NC(=S)NC(C)=O)=S | C19H18N4O4S2
